US05155122
A solution of 3,5-di-t-butyl-4-hydroxybenzaldehyde (3.5 g, 15 mmol), 2-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl) acetic acid (N. W. Jacobsen, B. L. McCarthy, and S. Smith, Aust. J. Chem., 32 161-5 (1979] (2.15 g, 15 mmol), and piperidine (1.3 g, 15 mmol) in pyridine (15 ml) and toluene (45 ml) is heated at reflux (with removal of water) for 40 hours. The reaction mixture is cooled, filtered, and evaporated. The residue is partitioned between ethyl acetate (100 ml) and 1N HCl (400 ml). The organic layer is washed two additional times with 1N HCl (400 ml) and then is dried (MgSO4) and evaporated. The residue crystallized upon addition of hot dichloromethane. Recrystallization from isopropyl ether/ethyl acetate gives 5-[2-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (2.49 g, 40%), mp 280°-284° C.

reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 15 mmol, 3.5 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | 2-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl) acetic acid | O=C1NC(=NN1)CC(=O)O | C4H5N3O3
reactant | piperidine | 15 mmol, 1.3 g | N1CCCCC1 | C5H11N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[2-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 2.49 g, 40% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=CC=1NC(NN1)=O | C18H25N3O2
